Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
ampicillin
 
Attending: ___.
 
Chief Complaint:
Left sided weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is an ___ year old right-handed woman w/ hx of HTN, DM,
HLD, CAD s/p CABG, Afib on coumadin (off for 5 days) presents as
transfer with difficulty walking upon waking up this morning 
(she
reports both legs seemed weak, possibly R weaker). She had two
witnessed episodes of reported L face, arm, leg weakness with
lethargy in ___. 

History taken from patient and from ___ records. 

Patient was in her usual state of health at bedtime on ___.
She woke up this morning ___ at 7 am and felt that she had
difficulty walking. She was able to stand and walk but had to
hold onto the wall and furniture. She was still able to get
dressed and went to the bathroom and then the dining room. She
felt that both legs were weak but thinks maybe her R leg was
weaker. She is usually very steady on her feet and does not need
a cane or walker. 

She describes a strange involuntary arm movement with her R arm
extending to her side 90 degrees from her body and the arm moved
to form small circles, but this stopped after a few seconds. 

She called her son and daughter and was able to tell them that
she did not feel well. She did not have trouble speaking or
pronouncing words. She was able to understand them on the phone.
Her daughter called EMS who brought her to ___.

Patient has not been eating or drinking well since her husband
has been very ill in ___. She had stopped coumadin
for AFib for the past 5 days in anticipation of a L eyelid
surgery for droop eyelid originally scheduled for ___. 

At ___, patient had 2 witnessed episodes described as
left facial droop, left arm and leg weakness along with 
"alterned
mental status with lethargy" lasting for ___ minutes. Symptoms
went away and she was back to normal. She does not really
remember these episodes well and has difficulty describe which
side it affected. 
CTA at ___ showed 76% R ICA stenosis and occluded R
vertebral artery at the origin. Vascular surgery was planning on
an open CEA today or tomorrow, but later decided to refer to
___ patient for a transthoracic carotid revascularization
procedure. Patient was initially resistant to transfer to ___
because her husband was very ill in ___ and she 
was
afraid she would never see him again. Heparin drip was started 
at
___ per vascular surery. 

She has not had any more episodes since the two witnessed
episodes in ___. She denies feeling confused this morning 
or
at ___. 
 

ROS: 
On neurological review of systems, the patient denies headache,
confusion, difficulties producing or comprehending speech, loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies 

numbness, parasthesiae. No bowel or bladder incontinence or
retention.  
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.

 
Past Medical History:
Atrial fibrillation on coumadin
Hypertension
Hyperlipidemia
CAD s/p CABG x4 in ___
Hip replacement
R Knee replacement
 
Social History:
Lives with husband. ___ ___. 
Tobacco: remote smoking history in youth but very little
Alcohol: none - socially in the past
Recreational drugs: none        

She is able to do all her ADLs at home. She is able to cook and
clean. She no longer drives.               

- Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 
Family History:
FAMILY HISTORY:
No history of stroke in the family. 
Father - liver cancer
Brother - MI
Brother - DM
 
Physical Exam:
PHYSICAL EXAMINATION: 
Vitals: T:98.2   HR:72   BP:141/78   RR:20   SaO2:97% on RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, ___, ___. Able 
to
relate history without difficulty. Attentive, able to name ___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands.  There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI: R pupil 1.5 mm fixed, L pupil 2 to 1 mm and
brisk. EOMI without nystagmus. Normal saccades. VFF to
confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. b/l cupping. No 
pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature
throughout. Decreased vibratory sense up to ankles b/l. Unable 
to
test joint position sense at great toes accurately as she kept
moving toes. No extinction to DSS.  

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   3     2      3      2     0
R   3     2      3      0     0 
R knee replacement scar
Plantar response was mute bilaterally.

-Coordination: No intention tremor. RUE dysmetria on FNF,
completely missing finger reproducibly. No dysmetria on HKS
bilaterally.

-Gait: ___ up on edge of bed for a brief time. Felt a little
lightheaded but did not seem severe. Able to stand and support
her weight, but unable to take a step. Attempted to take a step
with assistance and immediately fell backwards onto bed. 

DISCHARGE EXAM
================
PHYSICAL EXAMINATION: 
Vitals: T:Afebrile BP 124/72 in the room HR 89 O2 96%

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
 
Neurologic:
-Mental Status: Alert and oriented. Participates fully in
conversation without paraphasic errors. 

-Cranial Nerves:
II, III, IV, VI: R pupil 1.5 mm fixed, L pupil 2 to 1 mm and
brisk. EOMI without nystagmus. Some saccadic intrusion to smooth
pursuit.
V: Facial sensation intact to light touch.
VII: Subtle r-NLFF at rest.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. b/l cupping. No 
pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Not tested
-Reflexes: Not tested

-Coordination: Subtle RUE dysmetria. RLE asynchronous on heel
tapping to the shin. 

-Gait: Seen walking with ___ with walker. No deficits.

 
Pertinent Results:
Admission Labs
=================

___ 09:43PM BLOOD WBC-5.7 RBC-3.79* Hgb-12.1 Hct-38.3 
MCV-101* MCH-31.9 MCHC-31.6* RDW-13.7 RDWSD-50.5* Plt ___
___ 09:43PM BLOOD Neuts-59.9 ___ Monos-9.5 Eos-1.6 
Baso-0.7 Im ___ AbsNeut-3.40 AbsLymp-1.58 AbsMono-0.54 
AbsEos-0.09 AbsBaso-0.04
___ 09:43PM BLOOD ___ PTT-134.8* ___
___ 09:43PM BLOOD Plt ___
___ 09:43PM BLOOD Glucose-86 UreaN-20 Creat-1.3* Na-143 
K-5.0 Cl-106 HCO3-23 AnGap-14
___ 09:43PM BLOOD ALT-20 AST-36 CK(CPK)-116 AlkPhos-51 
TotBili-1.6*
___ 09:43PM BLOOD CK-MB-3
___ 09:43PM BLOOD cTropnT-<0.01
___ 09:43PM BLOOD Albumin-4.1 Calcium-9.4 Phos-3.5 Mg-1.6
___ 04:58AM BLOOD %HbA1c-5.4 eAG-108
___ 04:58AM BLOOD Triglyc-107 HDL-59 CHOL/HD-2.4 LDLcalc-62
___ 04:58AM BLOOD TSH-2.7
___ 09:43PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
-===-=-=-=-=-=-=

___ 10:15AM BLOOD WBC-7.0 RBC-3.72* Hgb-11.7 Hct-37.8 
MCV-102* MCH-31.5 MCHC-31.0* RDW-13.7 RDWSD-51.6* Plt ___
___ 10:15AM BLOOD Plt ___
___ 10:15AM BLOOD ___ PTT-63.6* ___
___ 10:15AM BLOOD Glucose-138* UreaN-18 Creat-1.0 Na-140 
K-4.3 Cl-106 HCO3-22 AnGap-12

PERTINENT LABS
----------------

___ 04:58AM BLOOD %HbA1c-5.4 eAG-108
___ 04:58AM BLOOD Triglyc-107 HDL-59 CHOL/HD-2.4 LDLcalc-62
___ 04:58AM BLOOD TSH-2.7

IMAGING
==============
Radiology Report CAROTID SERIES COMPLETE Study Date of 
___ 2:21 ___ 
IMPRESSION:  
  
Right ICA 60-69% stenosis.  Right vertebral artery not 
visualized. 
Left ICA <40%  stenosis. 

 MRA NECK W&W/O CONTRAST Study Date of ___ 10:56 ___ 

IMPRESSION: 
  
  
1. Multiple foci of acute to subacute infarcts in the right 
cerebellum. 
2. The right vertebral artery is not visualized throughout its 
course, with 
possibly a faint visualization of the V2 and V4 segments, 
consistent with 
complete or near complete occlusion. 
3. Grossly patent circle of ___, noting normal appearing 
bilateral PCAs.  
There is multifocal atherosclerotic narrowing of the bilateral 
distal ICAs and 
the major intracranial vessels. 
4. High-grade, approximately 65%, stenosis of the right ICA by 
NASCET 
criteria. 

Transthoracic Echocardiogram Report
Name: ___ ___ MRN: ___ Date: ___ 24:00

IMPRESSION: Suboptimal image quality. Regional/global left 
ventricular hypokinesis c/w
multivessel CAD, with mildly reduced ejection fraction. Mild 
right ventricular free wall hypokinesis.
Moderate mitral regurgitation. Moderate to severe tricuspid 
regurgitation and pulmonary
hypertension.

 
Brief Hospital Course:
___ RHD F w/ hx of HTN, DM, HLD, CAD s/p CABG, Afib on coumadin 
(off for 5 days for elective surgery) presents w difficulty 
walking upon waking. She additionally had two TIA like episodes 
involving Left sided weakness. She had been holding her 
anticoagulation (warfarin) Stroke workup was remarkable for 
right sided carotid stenosis of 60-69%, and she was initially 
considered for CEA. MRI, however, showed that patient had 
suffered a right sided cerebellar stroke, likely embolic in 
nature. She was transitioned from a heparin gtt to lovenox on a 
bridge to warfarin and discharged home. ___ evaluated the patient 
and she was cleared for home with ___. Etiology of her stroke 
and TIA most consistent with cardio-embolic mechanism. 

TI
----
[ ] Patient should not be taken off of anticoagulation for 
elective surgeries. With only 5 days of holding her warfarin, 
she suffered an embolic stroke. 
[ ] Patient should follow up in ___ clinic on a routine 
basis for monitoring of her carotid stenosis. Dr ___ - 
___
[ ] Patient is being bridged from lovenox to coumadin, she has 
an appointment ___ at 1120 am, after this appointment, she may 
be bridged back to warfarin and home ___ monitoring if 
appropriate

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = ) - 62 () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. irbesartan 300 mg oral DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Warfarin 2 mg PO DAILY16 

 
Discharge Medications:
1.  Enoxaparin (Treatment) 60 mg SC Q12H  
2.  irbesartan 300 mg oral DAILY  
3.  Metoprolol Succinate XL 25 mg PO DAILY  
4.  Simvastatin 40 mg PO QPM  
5.  Warfarin 2 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
-------------------
Acute ischemic stroke
Carotid stenosis

Secondary diagnoses
===================
HTN
DM
HLD
CAD
Afib

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of weakness and difficulty 
walking  resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
atrial fibrillation.
Holding anticoagulation for a procedure

We are changing your medications as follows:
We are starting you on lovenox bridging back to warfarin for 
this. 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___